US04071530
5.2: 3-Formylethyl-1-methyl-4-(2-tetrahydropyranyl-oxy-methyl)-pyrrolidone
11.0 g (41 m mols) of 3-(butenyl)-1-methyl-4-(2-tetrahydropyranyl-oxy-methyl)-pyrrolidone were dissolved in a mixture of 60 ml of absolute methyle chloride and 30 ml of absolute methanol. At -70° C ozone was introduced into this solution, while stirring, until the solution had a blue color. The reduction of the ozonide with dimethyl sulfide and the isolation of the aldehyde was effected in analogy to Example (5).

reactant | 3-(butenyl)-1-methyl-4-(2-tetrahydropyranyl-oxy-methyl)-pyrrolidone | 11.0 g | C(=CCC)C1C(N(CC1COC1OCCCC1)C)=O | C15H25NO3
reactant | ozone | O=[O+][O-] | O3
reactant | dimethyl sulfide | CSC | C2H6S
solvent | chloride | 60 ml | [Cl-]
solvent | methanol | 30 ml | CO | CH4O
product | 3-Formylethyl-1-methyl-4-(2-tetrahydropyranyl-oxy-methyl)-pyrrolidone | C(=O)CCC1C(N(CC1COC1OCCCC1)C)=O | C14H23NO4
